* NGSPICE file created from AND2.ext - technology: sky130A

.subckt AND2 A B VPWR VGND Y
X0 VGND x2 Y VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X1 x3 A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X2 x2 x1 x3 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X3 VGND B x1 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X4 VPWR x1 x2 VPWR sky130_fd_pr__pfet_01v8 ad=0.138 pd=1.22497 as=0.138 ps=1.52 w=0.46 l=0.15
**devattr s=5520,304 d=5520,304
X5 x2 A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.138 pd=1.52 as=0.138 ps=1.22497 w=0.46 l=0.15
**devattr s=5520,304 d=5520,304
X6 VPWR x2 Y VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.59503 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
X7 VPWR B x1 VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.59503 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
.ends

