* NGSPICE file created from AND2.ext - technology: sky130A

.subckt AND2 A B VPWR VGND Y
X0 VGND x2 Y VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X1 x3 A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X2 x2 x1 x3 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X3 VGND B x1 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X4 VPWR x1 x2 VPWR sky130_fd_pr__pfet_01v8 ad=0.189 pd=1.66 as=0.189 ps=1.86 w=0.63 l=0.15
**devattr s=7560,372 d=7560,372
X5 x2 A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.189 pd=1.86 as=0.189 ps=1.66 w=0.63 l=0.15
**devattr s=7560,372 d=7560,372
X6 VPWR x2 Y VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.32 as=0.378 ps=3.12 w=1.26 l=0.15
**devattr s=15120,624 d=15120,624
X7 VPWR B x1 VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.32 as=0.378 ps=3.12 w=1.26 l=0.15
**devattr s=15120,624 d=15120,624
.ends

